US03971791
Upon boiling a solution of 5.7 g of 4,6-dimethoxypyrimidin-5-aldehyde, 3.8 g of cyclohexane-1,3-dione and 4.4 g of amidinoacetic acid ethyl ester in 80 ml of ethanol for 8 hours, 2-amino-4-(4,6-dimethoxypyrimid-5-yl)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester of melting point 273°C (alcohol) is obtained. Yield: 65% of theory.

reactant | 4,6-dimethoxypyrimidin-5-aldehyde | 5.7 g | COC1=NC=NC(=C1C=O)OC | C7H8N2O3
reactant | cyclohexane-1,3-dione | 3.8 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | amidinoacetic acid ethyl ester | 4.4 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-amino-4-(4,6-dimethoxypyrimid-5-yl)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester | Yield: 65% | C(C)OC(=O)C1=C(NC=2CCCC(C2C1C=1C(=NC=NC1OC)OC)=O)N | C18H22N4O5
